US07642264B2
5-{1-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-thiophene-2-sulfonic acid amide
To a cooled and stirred solution of 5-{1-[4-(3,4-dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-thiophene-2-sulfonic acid tert-butyl amide (0.41 g) in dichloromethane (5 mL) was added TFA (5 mL) and the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was evaporated to dryness and saturated NaHCO3 solution (10 mL) was added. The mixture was stirred at room temperature for 30 min, the precipitate was collected by filtration and washed with water. The crude product was further purified by crystallization (MeOH/diethyl ether) to yield the title compound as a light brown solid (0.28 g, 79%). MS (ISP) 466.1 [(M+H)+]; mp 253.5° C.

reactant | 5-{1-[4-(3,4-dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-thiophene-2-sulfonic acid tert-butyl amide | 0.41 g | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C=1N=CN(C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C | C22H21Cl2N5O2S2
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-{1-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-thiophene-2-sulfonic acid amide | 0.28 g, 79% | ClC=1C=C(C=CC1Cl)C1=NC(=NC(=C1)C)N1C=NC(=C1)C1=CC=C(S1)S(=O)(=O)N | C18H13Cl2N5O2S2
